US05621133
1-Aminomethyl-5,6-bis(benzoyloxy)-3-phenyl-3,4-dihydronaphthalene Hydrochloride
Following the procedures described in Example 5, replacing trimethylacetyl chloride with benzoyl chloride and 1-aminomethyl-5,6-dihydroxy-3-phenyl-3,4-dihydronaphthalene hydrochloride with the compound of Example 15, the title compound was prepared. m.p. 173°-182° C.; 1H NMR (CD3OD) δ: 2.88 (t, 1H), 3.05 (dd, 1H), 3.65-3.8 (m, 2H), 4.0-4.1 (br s, 1H+CH3OH), 6.35 (d, 1H), 7.05-7.35 (m, 10H), 7.35-7.55 (m, 3H), 7.9-8.0 (m, 4H), 8.5-8.65 (br s, 3H).

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-aminomethyl-5,6-dihydroxy-3-phenyl-3,4-dihydronaphthalene hydrochloride | Cl.NCC1=CC(CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1
product | 1-Aminomethyl-5,6-bis(benzoyloxy)-3-phenyl-3,4-dihydronaphthalene Hydrochloride | Cl.NCC1=CC(CC2=C(C(=CC=C12)OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | InChI=1S/C31H25NO4.ClH/c32-20-25-18-24(21-10-4-1-5-11-21)19-27-26(25)16-17-28(35-30(33)22-12-6-2-7-13-22)29(27)36-31(34)23-14-8-3-9-15-23;/h1-18,24H,19-20,32H2;1H
